US04634713
A solution of 630 g of the cis 1-(4-aminocyclohexyl)-2-imidazolidinone monohydrochloride and 155 g of sodium methoxide in 6000 ml of anhydrous methanol is stirred at room temperature under an atmosphere of nitrogen for about 24 hours. The reaction mixture is cooled in an ice bath and the sodium chloride filtered off. The methanol filtrate is concentrated to dryness in vacuo. The residue is dissolved in 1700 ml of dichloromethane with heating. The mixture is cooled in an ice bath and filtered through a hyflo filter; the filter cake is washed with 750 ml of dichloromethane. The dichloromethane filtrate is concentrated to dryness in vacuo. The resulting residue is dried in high vacuum to constant weight to give cis 1-(4-aminocyclohexyl)-2-imidazolidinone, m.p. 121°-3°.

reactant | cis 1-(4-aminocyclohexyl)-2-imidazolidinone monohydrochloride | 630 g | Cl.N[C@H]1CC[C@H](CC1)N1C(NCC1)=O
reactant | sodium methoxide | 155 g | C[O-].[Na+]
solvent | methanol | 6000 ml | CO | CH4O
product | cis 1-(4-aminocyclohexyl)-2-imidazolidinone | N[C@H]1CC[C@H](CC1)N1C(NCC1)=O | C9H17N3O
